US04007190
3,6-Bis-(1-trifluoroacetyl-5-chloro-2-piperidinyl)-1,4-Bis-Trifluoroacetyl-2,5-Piperazinedione
One mole of 3,6-bis(5-chloro-2-piperidinyl)-2,5-piperazinedione is stirred 12 hours with 10 moles of trifluoroacetic anhydride and 5 moles of trifluoroacetic acid. The mixture is then refluxed 15 hours and the volatiles are removed in vacuo. The residue is triturated with methanol.

reactant | 3,6-bis(5-chloro-2-piperidinyl)-2,5-piperazinedione | One mole | ClC1CCC(NC1)C1C(NC(C(N1)=O)C1NCC(CC1)Cl)=O | C14H22Cl2N4O2
reactant | trifluoroacetic anhydride | 10 moles | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic acid | 5 moles | FC(C(=O)O)(F)F | C2HF3O2
product | 3,6-Bis-(1-trifluoroacetyl-5-chloro-2-piperidinyl)-1,4-Bis-Trifluoroacetyl-2,5-Piperazinedione | FC(C(=O)N1C(CCC(C1)Cl)C1C(N(C(C(N1C(C(F)(F)F)=O)=O)C1N(CC(CC1)Cl)C(C(F)(F)F)=O)C(C(F)(F)F)=O)=O)(F)F | C22H18Cl2F12N4O6
